US08039472B2
A solution of {2-[4-(4-methoxy-phenyl)-butyrylamino]-ethyl}-carbamic acid tert-butyl ester (6 g, 17.88 mmol) in dry THF (60 ml) under an inert atmosphere of Argon is treated carefully with borane. THF complex (53.88 ml, 1M Borane in THF). The reaction mixture is heated at reflux for 2 hours and then allowed to cool to room temperature overnight. The mixture is quenched by addition of MeOH and then heated to 70° C. for a further 2 hours. After cooling to room temperature, the solvent is removed in vacuo to afford {2-[4-(4-Methoxy-phenyl)-butylamino]-ethyl}-carbamic acid tert-butyl ester as a viscous oil; [M+H]+ 323

reactant | {2-[4-(4-methoxy-phenyl)-butyrylamino]-ethyl}-carbamic acid tert-butyl ester | 17.88 mmol, 6 g | C(C)(C)(C)OC(NCCNC(CCCC1=CC=C(C=C1)OC)=O)=O | C18H28N2O4
reactant | borane | B | BH3
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 1M, 53.88 ml | C1CCOC1 | C4H8O
product | {2-[4-(4-Methoxy-phenyl)-butylamino]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCNCCCCC1=CC=C(C=C1)OC)=O | C18H30N2O3
